US07943788B2
5-Bromo-2-methoxy-1-(5-n-propyl-2-thienylmethyl)benzene
2-n-Propylthiophene and 5-bromo-2-methoxybenzaldehyde were used and treated in a manner similar to Reference Example 7 to give the target compound. APCI-Mass m/Z 325/327 (M+H)

reactant | 2-n-Propylthiophene | C(CC)C=1SC=CC1 | C7H10S
reactant | 5-bromo-2-methoxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
product | 5-Bromo-2-methoxy-1-(5-n-propyl-2-thienylmethyl)benzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)CCC)OC | C15H17BrOS
